US09216980B2
Step 4: 3-[4-(1-Ethylpiperidin-2-yl)-phenyl]-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile
A solution of 3-[4-(1-ethyl-piperidin-2-yl)-phenyl]-9-(2-trimethylsilanylethoxy methyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile (75 mg, 0.147 mmol) in TBAF (1M in THF, 1.5 mL, 1.47 mmol) was heated at 55° C. for 16 h. The reaction mixture was concentrated in vacuo and the resultant residue was partitioned between water and ethyl acetate. The organic layer was separated, dried over sodium sulfate, filtered and evaporated to give a yellow solid. The resultant solid was purified by flash chromatography (silica, Biotage 50 g column, 0-100% (10% methanol in DCM)) to afford the title compound (11 mg, 20%). 1H NMR (DMSO-D6, 400 MHz): 12.89 (s, 1H), 9.08 (d, J=2.3 Hz, 1H), 9.04 (d, J=1.1 Hz, 1H), 9.02 (d, J=2.3 Hz, 1H), 8.93 (d, J=1.1 Hz, 1H), 7.75 (d, J=8.0 Hz, 2H), 7.49 (d, J=8.0 Hz, 2H), 3.16-3.07 (m, 2H), 2.54-2.42 (m, 1H), 2.11-1.93 (m, 2H), 1.79-1.64 (m, 3H), 1.63-1.20 (m, 3H), 0.89 (t, J=7.1 Hz, 3H). LCMS (Method A): RT=6.23 min; M+H+=382

reactant | 3-[4-(1-ethyl-piperidin-2-yl)-phenyl]-9-(2-trimethylsilanylethoxy methyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 0.147 mmol, 75 mg | C(C)N1C(CCCC1)C1=CC=C(C=C1)C1=CC2=C(N(C3=C2C=C(N=C3)C#N)COCC[Si](C)(C)C)N=C1 | C30H37N5OSi
reactant | TBAF | 1.47 mmol, 1M, 1.5 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
product | 3-[4-(1-Ethylpiperidin-2-yl)-phenyl]-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 11 mg, 20% | C(C)N1C(CCCC1)C1=CC=C(C=C1)C1=CC2=C(NC3=C2C=C(N=C3)C#N)N=C1 | C24H23N5
